US08754085B2
Step 1: (S)-Ethyl 7-(8-acetoxy-2,3-diphenyl-7,8-dihydropyrido[2,3-b]pyrazin-5(6H)-yl)heptanoate
To a solution of (S)-2,3-diphenyl-5,6,7,8-tetrahydropyrido[2,3-b]pyrazin-8-yl acetate (Intermediate HBS) (46 mg, 0.133 mmol) in DCE (7 ml) was added ethyl 7-oxoheptanoate (68.8 mg, 0.4 mmol) followed by sodium triacetoxyborohydride (226 mg, 1.065 mmol). The reaction mixture was left to stir at room temperature overnight under an atmosphere of nitrogen. A further portion of ethyl 7-oxoheptanoate (71.8 mg, 0.417 mmol) was added. The reaction mixture was left to stir for a further 5 hours under an atmosphere of nitrogen. Water (20 ml) was added and the resulting mixture was extracted with EtOAc (3×20 ml). The combined organic extracts were dried over MgSO4, filtered and concentrated to give a crude oil. The resulting crude product was purified by chromatography on silica eluting with 0-40% EtOAc/iso-hexane to afford an oil. The compound was passed through a pre-conditioned Isolute SCX-2 SPE column loading with MeOH and eluting with 1M ammonia in MeOH (20 ml) to afford the title compound;

reactant | (S)-2,3-diphenyl-5,6,7,8-tetrahydropyrido[2,3-b]pyrazin-8-yl acetate | 0.133 mmol, 46 mg | C(C)(=O)O[C@H]1CCNC2=NC(=C(N=C21)C2=CC=CC=C2)C2=CC=CC=C2 | C21H19N3O2
reactant | ethyl 7-oxoheptanoate | 0.4 mmol, 68.8 mg | O=CCCCCCC(=O)OCC | C9H16O3
reactant | sodium triacetoxyborohydride | 1.065 mmol, 226 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | ethyl 7-oxoheptanoate | 0.417 mmol, 71.8 mg | O=CCCCCCC(=O)OCC | C9H16O3
reactant | Water | 20 ml | O | H2O
solvent | DCE | 7 ml | ClCCCl | C2H4Cl2
solvent | MeOH | CO | CH4O
product | (S)-Ethyl 7-(8-acetoxy-2,3-diphenyl-7,8-dihydropyrido[2,3-b]pyrazin-5(6H)-yl)heptanoate | C(C)(=O)O[C@H]1CCN(C2=NC(=C(N=C21)C2=CC=CC=C2)C2=CC=CC=C2)CCCCCCC(=O)OCC | C30H35N3O4
